US05114944
2-(4-Methylphenyl)-N,N-dipropylpyrazolo[1,5-a]pyrimidine-3-acetamide
A mixture of 3.25 g (0.010 mole) of 3-[2-(1H-imidazole-1-yl)-2-oxoethyl]-2-(4-methylphenyl)pyrazolo[1,5-a]pyrimidine (prepared from 2-(4-methylphenyl)pyrazolo[1,5-a]pyrimidine-3-acetic acid and 1,1'-carbonyldiimidazole) and 1.1 g (0.011 mole) of dipropylamine in 25 ml of benzene was stirred at reflux for 5 hours. After cooling, the reaction mixture was washed with water, dried over magnesium sulfate, and concentrated in vacuo (2.6 g). The crude solid residue was purified by a liquid-solid extraction with isopropyl ether in a soxhlet. The purified product was collected by filtration from the isopropyl ether (extraction solvent) to yield 1.4 g (39.6%) of golden yellow crystals, mp 110°-111° C.

reactant | 3-[2-(1H-imidazole-1-yl)-2-oxoethyl]-2-(4-methylphenyl)pyrazolo[1,5-a]pyrimidine | 0.010 mole, 3.25 g | N1(C=NC=C1)C(CC=1C(=NN2C1N=CC=C2)C2=CC=C(C=C2)C)=O | C18H15N5O
reactant | dipropylamine | 0.011 mole, 1.1 g | C(CC)NCCC | C6H15N
reactant | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | 2-(4-Methylphenyl)-N,N-dipropylpyrazolo[1,5-a]pyrimidine-3-acetamide | 1.4 g, 39.6% | CC1=CC=C(C=C1)C1=NN2C(N=CC=C2)=C1CC(=O)N(CCC)CCC | C21H26N4O
